US05607956
1-(3-Furyl)-1-(4-methyl-5-thiazolyl)ethanol
3-Bromofuran (6.8 g) in diethylether (15 ml) was added dropwise to n-butyllithium (2.5M solution in hexane, 18.4 ml) in diethylether (20 ml) at -70° C. under a nitrogen atmosphere. After 1 hour, 5-acetyl-4-methylthiazole (5 g) in diethylether (15 ml) was added dropwise. After a further 3 hours at -70° C., the mixture was allowed to warm to room temperature and was then left overnight. The mixture was poured into water and extracted with diethylether. The product thus obtained was crystallised from diethylether, m.p. 102°-104° C.

reactant | 3-Bromofuran | 6.8 g | BrC1=COC=C1 | C4H3BrO
reactant | n-butyllithium | 2.5M, 18.4 ml | C(CCC)[Li]
reactant | 5-acetyl-4-methylthiazole | 5 g | C(C)(=O)C1=C(N=CS1)C | C6H7NOS
reactant | water | O | H2O
solvent | diethylether | 15 ml | C(C)OCC | C4H10O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 15 ml | C(C)OCC | C4H10O
product | 1-(3-Furyl)-1-(4-methyl-5-thiazolyl)ethanol | O1C=C(C=C1)C(C)(O)C1=C(N=CS1)C | C10H11NO2S
